US07098333B2
N-(3,4-dimethoxybenzyl)-7-(2-fluorobenzyl)-4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine (Example 12)
A solution of 2-chloro-7-(2-fluorobenzyl)4(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine (254 mg, 0.78 mmol) in N-methylpyrrolidone (2 mL) was treated with veratrylamine (0.25 mL, 1.66 mmol), heated to 100° C. for 16 h and purified by chromatography (Heptane:EtOAc, 4:1) to give the title compound (316 mg, 88%) as a cream solid.

reactant | 2-chloro-7-(2-fluorobenzyl)4(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.78 mmol, 254 mg | ClC=1N=C(C2=C(N1)N(C=C2)CC2=C(C=CC=C2)F)C=2OC=CC2 | C17H11ClFN3O
reactant | veratrylamine | 1.66 mmol, 0.25 mL | C(C1=CC(OC)=C(OC)C=C1)N | C9H13NO2
solvent | N-methylpyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | N-(3,4-dimethoxybenzyl)-7-(2-fluorobenzyl)-4-(2-furyl)-7H-pyrrolo[2,3-d]pyrimidine-2-amine | 316 mg, 88% | COC=1C=C(CNC=2N=C(C3=C(N2)N(C=C3)CC3=C(C=CC=C3)F)C=3OC=CC3)C=CC1OC | C26H23FN4O3
